US04105435
Preparation of β-[4-(2,4-Dichlorophenoxy)phenoxy]propanol
48 g of ethyl-α-[4-(2,4-dichlorophenoxy)phenoxy]propionate was dissolved in 80 ml of anhydrous diethyl ether and the solution was added dropwise to a dispersion of 5 g of lithium aluminum hydride in 200 ml of anhydrous diethyl ether while cooling. After completion of the addition, the mixture was allowed to stand for 12 hours at room temperature and then heated under refluxing for 1.5 hours to complete the reaction. The reaction mixture was poured into an appropriate amount of ice water, and the ethereal layer was separated. The ethereal layer was again extracted with diethyl ether and the extract was dried over anhydrous sodium sulfate. The ether was removed by distillation from the dried extract, and the residue was distilled under reduced pressure to obtain 40 g of the desired product having a boiling point of 201° to 205° C/2 mmHg.

reactant | ethyl-α-[4-(2,4-dichlorophenoxy)phenoxy]propionate | 48 g | C(C)OC(C(C)OC1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl)=O | C17H16Cl2O4
reactant | lithium aluminum hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | β-[4-(2,4-Dichlorophenoxy)phenoxy]propanol | 40 g | ClC1=C(OC2=CC=C(OC(CO)C)C=C2)C=CC(=C1)Cl | C15H14Cl2O3
